US09216980B2
Step 2: 3-[6-Cyano-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester
A degassed mixture of 3-(3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (160 mg, 0.20 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (54 mg, 0.26 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (20 mg, 0.026 mmol) in 1N aqueous potassium fluoride (0.60 mL, 0.60 mmol) and acetonitrile (0.60 mL) was heated at 130° C. under microwave irradiation for 30 minutes. The reaction mixture was allowed to cool to ambient temperature diluted with water (5 mL) and saturated aqueous sodium carbonate (5 mL) then extracted with ethyl acetate (3×10 mL). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. The resultant was purified by flash chromatography (silica, 2 g column, Si-SPE cartridge, 0-100% ethyl acetate in DCM then methanol) and trituration with acetonitrile to afford the title compound as a white solid (28 mg, 30%). 1H NMR (CDCl3, 400 MHz): 8.78-8.71 (m, 2H), 8.46 (s, 1H), 7.90 (s, 1H), 7.85-7.80 (m, 1H), 5.81 (s, 0.5H), 5.73 (s, 0.5H), 4.01 (s, 3H), 3.86-3.57 (m, 3H), 2.58-2.40 (m, 1H), 2.37-2.17 (m, 2H), 1.39 (s, 4H), 1.33 (s, 5H). LCMS (Method B): RT=3.09 min, M+H+=460.

reactant | 3-(3-bromo-6-cyano-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.20 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)Br)C#N | C20H20BrN5O3
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.26 mmol, 54 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 0.60 mmol, 1N, 0.60 mL | [F-].[K+]
solvent | acetonitrile | 0.60 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
solvent | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.026 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[6-Cyano-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-5-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 28 mg, 30% | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C=1C=NN(C1)C)C#N | C24H25N7O3
